US09024018B2
3-Methyl-8-(5-phenyloxazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-038)
3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (0.180 g; 0.58 mmol) was added to phosphorus oxychloride (3.6 mL) and the stirred mixture heated at 110° C. for 1.5 hours. The mixture was cooled and poured onto ice, and allowed to stand for 3 hour. The solid was filtered and extracted with chloroform on Soxhlet apparatus. Concentration under reduced pressure yielded pure title compound as a bright yellow powder (55 mg; 32%). δH (DMSO-d6) 8.94 (1H, s), 7.99 (1H, s), 7.85 (2H, m), 7.55 (2H, m), 7.44 (1H, tt, J=7.8, 1.1), 3.90 (3H, s).

reactant | 3-Methyl-4-oxo-N-(2-oxo-2-phenylethyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 0.58 mmol, 0.180 g | CN1N=NC=2N(C1=O)C=NC2C(=O)NCC(C2=CC=CC=C2)=O | C14H12N6O3
reactant | phosphorus oxychloride | 3.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Methyl-8-(5-phenyloxazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 55 mg, 32% | CN1N=NC=2N(C1=O)C=NC2C=2OC(=CN2)C2=CC=CC=C2 | C14H10N6O2
